US05008280
A mixture of 2-amino-6-trifluoromethoxybenzothiazole (9.4 g) and 1-chloro-2-propylthioethane (6.1 g) in methyl ethyl ketone (30 cc) is heated for 72 hours to boiling. The precipitate formed is filtered off, washed with methyl ethyl ketone (2×20 cc) and recrystallized in 2-propanol (30 cc). 2-Imino-3-(2-propylthioethyl)-6-trifluoromethoxybenzothiazoline hydrochloride (5.8 g), m.p. 187° C., is obtained.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 1-chloro-2-propylthioethane | 6.1 g | ClCCSCCC | C5H11ClS
solvent | methyl ethyl ketone | 30 cc | C(C)C(=O)C | C4H8O
product | 2-Imino-3-(2-propylthioethyl)-6-trifluoromethoxybenzothiazoline hydrochloride | 5.8 g | Cl.N=C1SC2=C(N1CCSCCC)C=CC(=C2)OC(F)(F)F | InChI=1S/C13H15F3N2OS2.ClH/c1-2-6-20-7-5-18-10-4-3-9(19-13(14,15)16)8-11(10)21-12(18)17;/h3-4,8,17H,2,5-7H2,1H3;1H
